US04568675
(B) 6-Methyl-1,8-phenazinediol
A magnetically stirred mixture of 0.509 g (2 mmol) of 3.6-dimethoxy-1-methylphenazine, 1.0 g of aluminum trichloride (7.5 mmol), and 20 ml of benzene was heated at reflux for 18 hours. The mixture was cooled to room temperature and the solvent was removed on a rotary evaporator. The residue was treated with crushed ice and the resulting mixture was taken up in 1N sodium hydroxide and washed with dichloromethane. The combined dichloromethane layers were back-extracted with 1N sodium hydroxide and the combined aqueous layers were acidified to pH 4-5. The solution was extracted with dichloromethane containing a trace of methanol. The combined organic layers were washed with brine and dried over magnesium sulfate. The solvent was was stripped to yield 1.06 g of a brown and yellow solid mixture. Flash chromatography in 6:1 toluene-acetone yielded 0.38 g of a yellow solid. This was recrystallized from toluene to yield 298 mg of orange crystals; decomposition at >256° C.

reactant | 3.6-dimethoxy-1-methylphenazine | 2 mmol, 0.509 g | COC=1C=C(C2=NC3=CC=CC(=C3N=C2C1)OC)C | C15H14N2O2
reactant | aluminum trichloride | 7.5 mmol, 1.0 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | toluene acetone | C1(=CC=CC=C1)C.CC(=O)C
product | 6-Methyl-1,8-phenazinediol | 0.38 g | CC1=C2N=C3C=CC=C(C3=NC2=CC(=C1)O)O | C13H10N2O2
